US07906516B2
9.1 1.3 ml (16.65 mmol) of methanesulfonyl chloride are added dropwise with ice cooling to a solution of 4.5 g (11.1 mmol) of tert-butyl (2R,4R)-4-hydroxy-2-[4-(3-oxomorpholin-4-yl)phenylcarbamoyl]pyrrolidine-1-carboxylate in 20 ml of pyridine, and the reaction solution is stirred at room temperature for 12 hours. The pyridine is subsequently stripped off under reduced pressure, 10 ml of saturated citric acid solution are added to the residue, and the acidic solution is extracted twice with 10 ml of methylene chloride each time. The combined organic phases are then washed with 10 ml of saturated sodium chloride solution and dried over sodium sulfate. Removal of the drying agent by filtration and stripping-off of the solvent gives 5.4 g (100%) of tert-butyl (2R,4R)-4-methanesulfonyloxy-2-[4-(3-oxomorpholin-4-yl)phenylcarbamoyl]pyrrolidine-1-carboxylate as a yellow oil, ESI 484.

reactant | methanesulfonyl chloride | CS(=O)(=O)Cl | CH3ClO2S
reactant | tert-butyl (2R,4R)-4-hydroxy-2-[4-(3-oxomorpholin-4-yl)phenylcarbamoyl]pyrrolidine-1-carboxylate | 11.1 mmol, 4.5 g | O[C@@H]1C[C@@H](N(C1)C(=O)OC(C)(C)C)C(NC1=CC=C(C=C1)N1C(COCC1)=O)=O | C20H27N3O6
reactant | citric acid | 10 ml | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | pyridine | 20 ml | N1=CC=CC=C1 | C5H5N
product | tert-butyl (2R,4R)-4-methanesulfonyloxy-2-[4-(3-oxomorpholin-4-yl)phenylcarbamoyl]pyrrolidine-1-carboxylate | 5.4 g, 100% | CS(=O)(=O)O[C@@H]1C[C@@H](N(C1)C(=O)OC(C)(C)C)C(NC1=CC=C(C=C1)N1C(COCC1)=O)=O | C21H29N3O8S
